US07846960B2
1-{4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-ethanone
To a 0° C. suspension of 4′-Hydroxy-2′-methylacetophenone (716 mg, 4.77 mmol), [2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-yl]-methanol (1.36 g, 4.77 mmol), tri-n-butylphosphine (1.78 mL, 7.15 mmol) in toluene (20 mL) is added ADDP (1.80 g, 7.15 mmol). The reaction is warmed to room temperature and is stirred overnight. The reaction is concentrated under reduced pressure and the residue is chromatographed (0% to 30% EtOAc/Hex) to yield the title compound (857 mg, 64%). 1H NMR (400 MHz, CDCl3) δ 7.70 (s, 1H), 7.65 (d, 1H, J=8.8 Hz), 7.42-7.38 (m, 2H), 7.32-7.27 (m, 1H), 6.64-6.58 (m, 2H), 4.85 (s, 2H), 2.99 (sept, 1H, J=7.0 Hz), 2.50 (s, 3H), 2.49 (s, 3H), 1.30 (d, 6H, J=7.0 Hz).

reactant | 4′-Hydroxy-2′-methylacetophenone | 4.77 mmol, 716 mg | OC1=CC(=C(C=C1)C(C)=O)C | C9H10O2
reactant | [2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-yl]-methanol | 4.77 mmol, 1.36 g | ClC1=C(C(=CC=C1)Cl)N1N=CC(=C1CO)C(C)C | C13H14Cl2N2O
reactant | tri-n-butylphosphine | 7.15 mmol, 1.78 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | ADDP | 7.15 mmol, 1.80 g | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1-{4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-ethanone | 857 mg, 64% | ClC1=C(C(=CC=C1)Cl)N1N=CC(=C1COC1=CC(=C(C=C1)C(C)=O)C)C(C)C | C22H22Cl2N2O2
